US04471116
As described in Example 19, 1-benzyloxy-4-(6-bromohexyloxy)benzene was reacted with isopropylamine at 100° (12 hours; 500 psi) to give 1-benzyloxy-4-[6-(1-methylethyl)aminohexyloxy]benzene. The crude oil was crystallized from pentane yielding the purified product, mp 47°-49°.

reactant | 1-benzyloxy-4-(6-bromohexyloxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCCCCBr | C19H23BrO2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 1-benzyloxy-4-[6-(1-methylethyl)aminohexyloxy]benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCCCCNC(C)C | C22H31NO2
